US07183418B2
2,5-Bis-trimethylstannyl-thieno[2,3-b]thiophene
A solution of thieno[2,3-b]thiophene (2.81 g, 20 mmol) was dissolved in anhydrous THF (100 ml) and cooled to −78° C. under nitrogen. A solution of n-butyllithium (17.6 ml of a 2.5M solution in hexanes, 44 mmol) was added dropwise over 15 min, and the resulting solution was allowed to warm to RT and stirred at that temperature for 16 h. The resulting suspension was cooled to −78° C. and trimethyltin chloride (10.0 g, 50 mmol) was added at once as a solid. The reaction was allowed to warm to RT over 4 h and stirred at that temperature for an additional 20 h. The reaction was quenched by the addition of saturated sodium hydrogen carbonate (100 ml). Ethyl acetate (50 ml) was added and the layers separated. The organic layer was washed-with sodium carbonate (80 ml of a 2M aqeous solution) and brine (80 ml), dried (sodium sulfate), filtered and concentrated under reduced pressure. The resulting crude product was dry loaded onto a 20 g reverse phase silica column and eluted with acetonitrile. The first fraction was collected, concentrated and recrystallised from acetonitrile to afford the product as white flakes (4.15 g, 45%). M/Z cluster centred at 466 (M+). Found C, 31.1; H, 4.4; S,13.8, Calc. for C12H20S2Sn2 C, 30.9; H, 4.3; S, 13.8. 1H NMR (300 MHz, CDCl3) δ 7.23 (s, 2H), 0.38 (s,18H). 13C NMR (75 MHz, CDCl3) δ 152.4, 147.7, 142.7, 126.3, −8.2.

reactant | thieno[2,3-b]thiophene | 20 mmol, 2.81 g | S1C=CC2=C1SC=C2 | C6H4S2
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethyltin chloride | 50 mmol, 10.0 g | C[Sn](C)(C)Cl
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2,5-Bis-trimethylstannyl-thieno[2,3-b]thiophene | C[Sn](C1=CC2=C(SC(=C2)[Sn](C)(C)C)S1)(C)C | InChI=1S/C6H2S2.6CH3.2Sn/c1-3-7-6-5(1)2-4-8-6;;;;;;;;/h1-2H;6*1H3;;
